US09290517B2
1-[4-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]phenyl]phenyl]ethanone
LiOH (0.41 ml, 1.230 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (41.8 mg, 0.051 mmol) were added to a stirred solution of (3R,3aR,6R,6aR)-6-[[5-(4-bromophenyl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (225.2 mg, 0.497 mmol) and 4-acetylphenylboronic acid (100.3 mg, 0.612 mmol) in dioxane (4.0 ml) and water (0.59 ml). The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 80° C. for 18 h. The reaction mixture was then partitioned between EtOAc (50 ml) and water (50 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×50 ml), dried over Na2SO4, filtered, and evaporated under reduced pressure to give a yellow solid. The solid was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 100% acetonitrile+0.05% TFA flush. The desired fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a light yellow solid. LC-MS: calculated for C26H22ClN3O5 491.12 observed m/e: 492.10 (M+H)+ (Rt 1.14/2 min); 1H NMR δ (ppm) (CD3OD): 8.11 (d, J=8.5 Hz, 2H), 7.85 (d, J=8.5 Hz, 2H), 7.83 (s, 1H), 7.77-7.82 (m, 4H), 5.55 (qt, J=5 Hz, 1H), 4.97 (t, J=5.3 Hz, 1H), 4.47 (t, J=4.8, 1H), 4.27-4.30 (m, 1H), 4.17 (dd, J=5.8, J=10.3, 1H), 4.11 (dd, J=4.8 Hz, J=10.3, 1H), 3.90 (t, J=7.5 Hz, 1H), 3.60 (t, J=8.8 Hz, 1H) 2.65 (s, 3H).

reactant | LiOH | 1.230 mmol, 0.41 ml | [Li+].[OH-]
reactant | (3R,3aR,6R,6aR)-6-[[5-(4-bromophenyl)-6-chloro-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.497 mmol, 225.2 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)Cl | C18H15BrClN3O4
reactant | 4-acetylphenylboronic acid | 0.612 mmol, 100.3 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
solvent | dioxane | 4.0 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.59 ml | O | H2O
product | 1-[4-[4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]phenyl]phenyl]ethanone | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O)N2 | C26H22ClN3O5
